US05780465
31. Preparation of 5-(2,2-Dimethyl-6-methylthioindan-1-yl)-4-methylthiopyrimidine (Cpd. 204)
To a mixture of 1.0 g (3.5 mmol) of 5-(6-amino-2,2-dimethylindan-1-yl)-4-methylthiopyrimidine in 25 mL of dry acetonitrile at 5° C. was added with stirring 1.0 g (7.0 mmol) of nitrosonium tetrafluoroborate. After 30 min the resulting solution was poured with stirring into a solution of 20 g (0.20 mol) of dimethyl disulfide in 100 mL of acetonitrile. After 2 hr, 0.50 g of sodium methanethiolate was added and the reaction mixture was heated with stirring to 60° C. for 16 hr. The mixture was cooled and poured into 600 mL of ether with stirring. The ethereal phase was recovered and was washed with water (2×100 mL), dried over magnesium sulfate, filtered, and concentrated by evaporation under reduced pressure. The residue was purified by column chromatography on silica gel to obtain 500 mg (45 percent of theory) of the title compound as a light gold oil.

reactant | 5-(6-amino-2,2-dimethylindan-1-yl)-4-methylthiopyrimidine | 3.5 mmol, 1.0 g | NC1=CC=C2CC(C(C2=C1)C=1C(=NC=NC1)SC)(C)C | C16H19N3S
reactant | nitrosonium tetrafluoroborate | 7.0 mmol, 1.0 g | F[B-](F)(F)F.N#[O+]
reactant | dimethyl disulfide | 0.20 mol, 20 g | CSSC | C2H6S2
reactant | sodium methanethiolate | 0.50 g | C[S-].[Na+]
solvent | acetonitrile | 25 mL | C(C)#N | C2H3N
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
solvent | ether | 600 mL | CCOCC | C4H10O
product | 5-(2,2-Dimethyl-6-methylthioindan-1-yl)-4-methylthiopyrimidine | CC1(C(C2=CC(=CC=C2C1)SC)C=1C(=NC=NC1)SC)C | C17H20N2S2
